US05194602
21-Acetoxy-9α-hydroxypregna-4,16-diene-3,20-dione
A 15% (w/v) aqueous solution of titanium trichloride (4.1 ml) was added to a stirred suspension of 21-acetoxy-9α-hydroxy-20-hydroxyiminopregna-4,16-dien-3-one (0.50 g), ammonium acetate (1.5 g), acetic acid (10 ml) and acetone (3.75 ml) under nitrogen. After stirring at room temperature for 6 hours the reaction mixture was poured into water (30 ml) and extracted three times with diethyl ether. The combined organic layers were washed three times with 1N sodium hydroxide solution, then washed with aqueous sodium chloride solution and dried. The extract was evaporated under reduced pressure to afford the title compound as a foam.

reactant | 21-acetoxy-9α-hydroxy-20-hydroxyiminopregna-4,16-dien-3-one | 0.50 g | C(C)(=O)OCC(C1=CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@]3(CC[C@]12C)O)=O)=NO | C23H31NO5
reactant | ammonium acetate | 1.5 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | acetone | 3.75 ml | CC(=O)C | C3H6O
catalyst | titanium trichloride | 4.1 ml | [Cl-].[Cl-].[Cl-].[Ti+3]
solvent | water | 30 ml | O | H2O
product | 21-Acetoxy-9α-hydroxypregna-4,16-diene-3,20-dione | C(C)(=O)OCC(C1=CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@]3(CC[C@]12C)O)=O)=O | C23H30O5
